US04007276
5H-s-triazolo[5,1-a]isoindole
To a solution of 2 ml of 10% H2SO4 in 12 ml of water, a solution of 0.69 g (0.004 mole) of 2-amino -5H-s-triazolo[5,1-a]isoindole in 20 ml of water containing 4 ml of 10% H2SO4 is added. Under cooling to a 0-3°C, 8 ml of 0.5 N NaNO2 is dropped into the solution and 7.8 ml of 50% H3PO2 is successively added. After heating to about 40°C for 30 minutes, the mixture is filtered and the filtrate is brought to pH 8 with Na2CO3. The aqueous phase is extracted several times with ethyl ether and the organic extract is evaporated to dryness. The residual crude product is purified by crystallization from isopropyl ether. Yield 0.32 g (50%). M.p. 116- 7°C. The same compound may be obtained by heating at 140°C for 16 hours N-aminophthalimidine with an excess of formamide in the presence of a catalytic amount of piperidine acetate. Yield 63%.

reactant | H2SO4 | 2 ml | OS(=O)(=O)O | H2O4S
reactant | 2-amino -5H-s-triazolo[5,1-a]isoindole | 0.004 mole, 0.69 g | NC1=NN2C(C3=CC=CC=C3C2)=N1 | C9H8N4
reactant | NaNO2 | 0.5 N, 8 ml | N(=O)[O-].[Na+]
reactant | H3PO2 | 7.8 ml | O[PH2]=O | H3O2P
reactant | formamide | C(=O)N | CH3NO
reactant | piperidine acetate | C(C)(=O)O.N1CCCCC1
solvent | water | 12 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 5H-s-triazolo[5,1-a]isoindole | Yield 63% | N=1C=NN2C1C1=CC=CC=C1C2 | C9H7N3
